US04578250
A solution of p-nonylphenol, 35 g, in 125 mL methylene chloride was mixed with a solution of 44.5 g KOH in 125 mL water. To this mixture was added 45 g iodomethane and 5.0 g tetra-n-butylammonium bromide. The whole mixture was vigorously stirred at 40° C. for one hour. After cooling to room temperature, the phases were separated and the aqueous phase extracted with 50 mL methylene chloride. The combined methylene chloride layers were concentrated to an oil which was taken up in 200 mL of petroleum ether and filtered to remove the residual phase transfer catalyst. Finally, the petroleum ether was removed under vacuum to give 31.1 g (84%) of p-nonylanisole.

reactant | p-nonylphenol | C(CCCCCCCC)C1=CC=C(C=C1)O | C15H24O
reactant | KOH | 44.5 g | [OH-].[K+]
reactant | iodomethane | 45 g | IC | CH3I
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | water | 125 mL | O | H2O
catalyst | tetra-n-butylammonium bromide | 5.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | p-nonylanisole | 31.1 g, 84% | C(CCCCCCCC)C1=CC=C(C=C1)OC | C16H26O
